.subckt cdac_array b7 b6 b5 b4 b3 b2 b1 b0 term topp
XCb7 topp b7 cap_cmim w=2.14u l=2.14u m=128
XCb6 topp b6 cap_cmim w=2.14u l=2.14u m=64
XCb5 topp b5 cap_cmim w=2.14u l=2.14u m=32
XCb4 topp b4 cap_cmim w=2.14u l=2.14u m=16
XCb3 topp b3 cap_cmim w=2.14u l=2.14u m=8
XCb2 topp b2 cap_cmim w=2.14u l=2.14u m=4
XCb1 topp b1 cap_cmim w=2.14u l=2.14u m=2
XCb0 topp b0 cap_cmim w=2.14u l=2.14u m=1
XCterm topp term cap_cmim w=2.14u l=2.14u m=1
.ends
.subckt sa_comp inp inn clk outp outn VDD VSS
XM1 p inp tail VSS sg13_lv_nmos w=2.0u l=0.15u
XM2 q inn tail VSS sg13_lv_nmos w=2.0u l=0.15u
XM3 outn outp p VSS sg13_lv_nmos w=4.0u l=0.13u
XM4 outp outn q VSS sg13_lv_nmos w=4.0u l=0.13u
XMT tail clk VSS VSS sg13_lv_nmos w=3.0u l=0.3u
XM5 outn outp VDD VDD sg13_lv_pmos w=6.0u l=0.13u
XM6 outp outn VDD VDD sg13_lv_pmos w=6.0u l=0.13u
XMS1 p clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u
XMS2 q clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u
XMS3 outn clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u
XMS4 outp clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u
.ends
.subckt sw_bitcell bot vin ctl trk trkb VDD VSS
XMND bot ctl VSS VSS sg13_lv_nmos w=2.0u l=0.13u
XMPD bot ctl VDD VDD sg13_lv_pmos w=4.0u l=0.13u
XMNT bot trk vin VSS sg13_lv_nmos w=2.0u l=0.13u
XMPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u
.ends
.subckt sw_bitcell11 bot vin ctl trkb gb VDD VSS VSSB
XMND bot ctl VSS VSSB sg13_lv_nmos w=2.0u l=0.13u
XMPD bot ctl VDD VDD sg13_lv_pmos w=4.0u l=0.13u
XMNT bot gb vin VSSB sg13_lv_nmos w=2.0u l=0.13u
XMPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u
.ends
.subckt sw_bitcell10 bot vin ctl trkb gb VDD VSS
XMND bot ctl VSS VSS sg13_lv_nmos w=2.0u l=0.13u
XMPD bot ctl VDD VDD sg13_lv_pmos w=4.0u l=0.13u
XMNT bot gb vin VSS sg13_lv_nmos w=2.0u l=0.13u
XMPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u
.ends
.subckt bstrap vin out ckb gb VDD VSS
XMsw  out gb  vin VSS sg13_lv_nmos w=4.0u l=0.13u
XMN_c gb  VDD x   VSS sg13_lv_nmos w=2.0u l=0.15u
XMN_g x   ckb VSS VSS sg13_lv_nmos w=2.0u l=0.15u
XMN_cb cb ckb VSS VSS sg13_lv_nmos w=2.0u l=0.15u
XMP_ct ct gb  VDD ct  sg13_lv_pmos w=2.0u l=0.13u
XMN_bt cb gb  vin VSS sg13_lv_nmos w=2.0u l=0.15u
XMP_gt gb ckb ct  ct  sg13_lv_pmos w=2.0u l=0.13u
XCb   ct  cb  cap_cmim w=9.94u l=9.94u
.ends
.subckt sw_tg bot vin trk trkb VDD VSS
XMNT bot trk vin VSS sg13_lv_nmos w=2.0u l=0.13u
XMPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u
.ends
.subckt oa_sar8_acore12 vinp vinn vcm clk_cmp trk hold ctl7 ctl6 ctl5 ctl4 ctl3 ctl2 ctl1 ctl0 outp outn VDD VSS ctl0n ctl1n ctl2n ctl3n ctl4n ctl5n ctl6n ctl7n
Xmain b7 b6 b5 b4 b3 b2 b1 b0 term topm cdac_array
Xrep b7r b6r b5r b4r b3r b2r b1r b0r termr topr cdac_array
Xcmp topr topm clk_cmp outp outn VDD VSS sa_comp
Xsw0 b7 vinr ctl7 trkb gb VDD vssgp VSS sw_bitcell11
Xsw1 b6 vinr ctl6 trkb gb VDD vssgp VSS sw_bitcell11
Xsw2 b5 vinr ctl5 trkb gb VDD vssgp VSS sw_bitcell11
Xsw3 b4 vinr ctl4 trkb gb VDD vssgp VSS sw_bitcell11
Xsw4 b3 vinr ctl3 trkb gb VDD vssgp VSS sw_bitcell11
Xsw5 b2 vinr ctl2 trkb gb VDD vssgp VSS sw_bitcell11
Xsw6 b1 vinr ctl1 trkb gb VDD vssgp VSS sw_bitcell11
Xsw7 b0 vinr ctl0 trkb gb VDD vssgp VSS sw_bitcell11
Xsw8 term vinr VDD trkb gb VDD vssgp VSS sw_bitcell11
Xsw9 trkb VSS trk trk trkb VDD VSS sw_bitcell
Xsw10 topm vcm trk trkb VDD VSS sw_tg
XMFP1 vssgp hold VSS VSS sg13_lv_nmos w=4.0u l=0.13u
XMFP2 vssgp hold VSS VSS sg13_lv_nmos w=4.0u l=0.13u
XMFN1 vssgn hold VSS VSS sg13_lv_nmos w=4.0u l=0.13u
XMFN2 vssgn hold VSS VSS sg13_lv_nmos w=4.0u l=0.13u
Xboot vinp vinr trkb gb VDD VSS bstrap
Xbootn vinn vinnr trkb gbn VDD VSS bstrap
Xswr0 b7r vinnr ctl7n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr1 b6r vinnr ctl6n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr2 b5r vinnr ctl5n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr3 b4r vinnr ctl4n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr4 b3r vinnr ctl3n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr5 b2r vinnr ctl2n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr6 b1r vinnr ctl1n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr7 b0r vinnr ctl0n trkb gbn VDD vssgn VSS sw_bitcell11
Xswr8 termr vinnr VDD trkb gbn VDD vssgn VSS sw_bitcell11
Xtgr topr vcm trk trkb VDD VSS sw_tg
.ends
