* X1: bootstrap cap x4 (150 -> 600 fF), both sides
XCbP w_18920_n9960# a_15268_n9612# cap_cmim l=9.94u w=9.94u m=3
XCbN w_36972_n9960# a_40692_n9612# cap_cmim l=9.94u w=9.94u m=3
