* X2: pmos in parallel with the bootstrap series switch Msw (gate = trkb), both sides
XswpP bstrap_1.out bstrap_1.ckb vinp VDD sg13_lv_pmos w=8u l=0.13u
XswpN bstrap_0.out bstrap_1.ckb vinn VDD sg13_lv_pmos w=8u l=0.13u
