* Cb x2 (150 -> 300 fF): add one more 150 fF unit per bootstrap
XCbP w_18920_n9960# a_15268_n9612# cap_cmim l=9.94u w=9.94u m=1
XCbN w_36972_n9960# a_40692_n9612# cap_cmim l=9.94u w=9.94u m=1
