* Cb x3 (150 -> 450 fF)
XCbP w_18920_n9960# a_15268_n9612# cap_cmim l=9.94u w=9.94u m=2
XCbN w_36972_n9960# a_40692_n9612# cap_cmim l=9.94u w=9.94u m=2
